US09126957B2
Step 2 (3aR,4R,5R,6R,7aS)-4,5-Bis(benzyloxy)-6-((benzyloxy)methyl)-2-(pyrrolidin-1-yl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole
To a solution of N-((1S,2R,3R,4R,6R)-2,3-bis(benzyloxy)-4-((benzyloxy)methyl)-6-hydroxycyclohexyl)pyrrolidine-1-carbothioamide (0.260 g, 0.464 mmol) and triphenylphosphine (0.183 g, 0.700 mmol) in anhydrous THF (6.0 mL) was added DIAD (0.131 g, 0.650 mmol). After addition the mixture was stirred at room temperature for 60 h. The solvent was evaporated under reduced pressure, and the residue was purified on silica gel by automatic flash column chromatography (EtOAc/hexanes, 1:10 to 1:4), affording as a colorless oil (0.21 g, 84%). 1H NMR (400 MHz, CDCl3) δ 7.43-7.42 (m, 2H), 7.34-7.23 (m, 13H), 4.95 (d, J=11.6 Hz, 1H), 4.86 (d, J=11.0 Hz, 1H), 4.76 (d, J=11.6 Hz, 1H), 4.56 (d, J=11.0 Hz, 1H), 4.50-4.43 (m, 2H), 3.80 (d, J=7.6 Hz, 1H), 3.78-3.76 (m, 2H), 3.68 (dd, J=4.0, 9.0 Hz, 1H), 3.57-3.43 (m, 4H), 3.13 (d, J=6.2 Hz, 1H), 2.89-2.88 (m, 1H), 2.28-2.23 (m, 1H), 2.05-2.02 (m, 1H), 2.00-1.90 (m, 4H), 1.87-1.82 (m, 1H).

reactant | N-((1S,2R,3R,4R,6R)-2,3-bis(benzyloxy)-4-((benzyloxy)methyl)-6-hydroxycyclohexyl)pyrrolidine-1-carbothioamide | 0.464 mmol, 0.260 g | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@@H](C[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)O)NC(=S)N1CCCC1 | C33H40N2O4S
reactant | triphenylphosphine | 0.700 mmol, 0.183 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.650 mmol, 0.131 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | (3aR,4R,5R,6R,7aS)-4,5-Bis(benzyloxy)-6-((benzyloxy)methyl)-2-(pyrrolidin-1-yl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole | 0.21 g, 84% | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H](C[C@H]2[C@@H]1N=C(S2)N2CCCC2)COCC2=CC=CC=C2)OCC2=CC=CC=C2 | C33H38N2O3S
